US07601856B2
Following the procedure of Example 1, 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine (0.15 g, 0.69 mmol), acetyl chloride (0.055 mL, 0.69 mmol), and poly(vinylpyridine) (0.5 g) in dichloroethane (8 mL) provided N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)acetamide (0.10 g). MS (ESI) m/z 258 ([M+H]+).

reactant | 6,7,8,9,10,11-Hexahydro-benzo[b]-cycloocta[d]furan-2-ylamine | 0.69 mmol, 0.15 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)N | C14H17NO
reactant | acetyl chloride | 0.69 mmol, 0.055 mL | C(C)(=O)Cl | C2H3ClO
solvent | dichloroethane | 8 mL | ClC(C)Cl | C2H4Cl2
product | N-(6,7,8,9,10,11-hexahydrobenzo[b]cycloocta[d]furan-2-yl)acetamide | 0.10 g | C1=C(C=CC=2OC3=C(C21)CCCCCC3)NC(C)=O | C16H19NO2
